US06472387B1
To a stirred solution of N-ethyl, N-propionyl tyramine (2.84 g, 12.83 mmole) in tetrahydrofuran (32.1 ml) was added 60% sodium hydride dispersion (0.56 g, 14.11 mmole). After stirring for 10 minutes, the compound of Example 42(E) (4.70 g, 12.83 mmole) was added. The reaction was allowed to stir at room temperature for 5 hours, poured into ethyl acetate, and extracted with 10% sodium sulfate, then brine. The organic layer was dried over sodium sulfate, evaporated to dryness, and chromatographed on silica gel using a hexane-ethyl acetate gradient. Further chromatography on silica gel using toluene-acetone gradients yielded the intermediate phenyl ether (2.10 g, 32%):

reactant | N-propionyl tyramine | 12.83 mmole, 2.84 g | C(CC)(=O)NCCC1=CC=C(C=C1)O | C11H15NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 32.1 ml | O1CCCC1 | C4H8O
product | phenyl ether | 2.10 g, 32% | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
